US06544985B2
(RS)-[2-(3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J12) (173 mg, 0.5 mmol) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester (Example K5) (250 mg, 0.62 mmol) according to the general procedure M. Obtained as an orange foam (168 mg).

reactant | (2-amino-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 0.5 mmol, 173 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C(F)(F)F)N)=O | C16H22F3N3O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester | 0.62 mmol, 250 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[2-(3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-5-pyrrolidin-1-yl-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C33H39F3N6O6
